US07723286B2
d) Synthesis of 1-methyl-3-oxo-3-(2,6,6-trimethyl-2-cyclohexen-1-yl)propyl 4-methyl-benzenesulfonate
To a solution of 3-hydroxy-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone (1.00 g, 92% pure, 4.38 mmol), DMAP (100 mg), and NEt3 (1.0 ml, 7.2 mmol) in CH2Cl2 (20 ml) was added, at 0° C., tosylchloride (2.02 g, 10.56 mmol). The reaction medium was stirred at room temperature for 4 days. Then, the mixture was acidified with concentrated HCl and extracted twice with ether and washed with water, saturated aqueous NaHCO3 and then with saturated aqueous NaCl. Finally, the organic phases were dried over Na2SO4, concentrated at 50-60°/0.03 mbar). 0.76 g of product were thus obtained (yield: 50%).

reactant | 3-hydroxy-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone | 4.38 mmol, 1.00 g | OC(CC(=O)C1C(=CCCC1(C)C)C)C | C13H22O2
reactant | NEt3 | 7.2 mmol, 1.0 ml | CCN(CC)CC | C6H15N
reactant | tosylchloride | 10.56 mmol, 2.02 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | HCl | Cl | ClH
catalyst | DMAP | 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-oxo-3-(2,6,6-trimethyl-2-cyclohexen-1-yl)propyl 4-methyl-benzenesulfonate | 0.76 g, yield: 50% | CC1=CC=C(C=C1)S(=O)(=O)OC(CC(C1C(=CCCC1(C)C)C)=O)C | C20H28O4S
